US06967254B2
4-(4-Chloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one
To a solution of 2-(4-Chloro-phenyl)-3-pyridin-4-yl-acrylic acid methyl ester 2.02 g in ethyl alcohol 25 mL was added hydrazine 2.37 g. The reaction was heated to 50° C. for 135 minutes. All solvent was removed after under reduced pressure to afford the title compound as light yellow solid. MS (ES+): 274 (M+H)+.

reactant | 2-(4-Chloro-phenyl)-3-pyridin-4-yl-acrylic acid methyl ester | 2.02 g | COC(C(=CC1=CC=NC=C1)C1=CC=C(C=C1)Cl)=O | C15H12ClNO2
reactant | hydrazine | 2.37 g | NN | H4N2
solvent | ethyl alcohol | 25 mL | C(C)O | C2H6O
product | 4-(4-Chloro-phenyl)-5-pyridin-4-yl-pyrazolidin-3-one | ClC1=CC=C(C=C1)C1C(NNC1C1=CC=NC=C1)=O | C14H12ClN3O
